US08247403B2
(6) 6-phenyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 6-phenyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (90.0 mg, 0.265 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (68.5 mg, 98.7%) as a solid.

reactant | tert-butyl 6-phenyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.265 mmol, 90.0 mg | C1(=CC=CC=C1)C1=CC=CC2=C1CN(CCO2)C(=O)OC(C)(C)C | C20H23NO3
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 6-phenyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 68.5 mg, 98.7% | Cl.C1(=CC=CC=C1)C1=CC=CC2=C1CNCCO2 | InChI=1S/C15H15NO.ClH/c1-2-5-12(6-3-1)13-7-4-8-15-14(13)11-16-9-10-17-15;/h1-8,16H,9-11H2;1H
